US06313122B1
C. N1-Benzoyl-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine
Using the procedure described in Example 93, Part A, benzoyl chloride (0.80 mmol) and N1-(4-tert-butylbenzoyl)-1,2-benzenediamine (0.75 mmol) yielded 150 mg (54%) of the title compound.

reactant | benzoyl chloride | 0.80 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N1-(4-tert-butylbenzoyl)-1,2-benzenediamine | 0.75 mmol | C(C)(C)(C)C1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C17H20N2O
product | N1-Benzoyl-N2-(4-tert-butylbenzoyl)-1,2-benzenediamine | 150 mg, 54% | C(C1=CC=CC=C1)(=O)NC=1C(=CC=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C24H24N2O2
